US06159990
To a biphasic solution of 1,2-difluoro-4-isopropenyl-benzene (0.81 g, 5.1 mmol) in CH2Cl2 (50 mL) and 50 mL of phosphate buffer (made by dissolving 0.3 g of NaHPO4 and 0.35 g of NaH2PO4 in 50 mL water, pH=8) at 0° C., was added a solution of 3-chloroperoxybenzoic acid (approx. 75% solid, 3.32 g, 10.2 mmol) via a dropping funnel fitted with a cotton plug dropwise in two batches. The solution was stirred at room temperature overnight. It was extracted with CH2Cl2, washed with sat. Na2S2O4 solution followed by water. The organic layer was finally washed with sat. NaHCO3, separated, dried over Na2SO4, filtered and solvent was removed in vacuo. 2-(3,4-Difluorophenyl)-2-methyl-oxirane was obtained as a pale yellow oil (0.65 g, 74% yield). It was used in the next step without purification.

reactant | 1,2-difluoro-4-isopropenyl-benzene | 5.1 mmol, 0.81 g | FC1=C(C=C(C=C1)C(=C)C)F | C9H8F2
reactant | phosphate | 50 mL, 0.3 g, pH=8 | P(=O)([O-])([O-])[O-]
reactant | 3-chloroperoxybenzoic acid | 10.2 mmol, 3.32 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(3,4-Difluorophenyl)-2-methyl-oxirane | FC=1C=C(C=CC1F)C1(OC1)C | C9H8F2O
